US05849764
Step B 5-pyridin-3-yl-pentan-2-ol
To a solution of methylmagnesium bromide (0.75 mL of a 3M solution (diethyl ether) in 3.5 mL dry tetrahydrofuran) at 0° C. was added a solution of 4-pyridin-3-yl-butyraldehyde (133 mg in 1 mL tetrahydrofuran) and the mixture at low temperature. After 30 minutes, the reaction was quenched by the addition of saturated ammonium chloride and extracted with ethyl acetate. The organic portion was washed with saturated sodium bicarbonate, dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography on silica gel (methylene chloride:methanol, 95:5) gave the title compound (71 mg).

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 4-pyridin-3-yl-butyraldehyde | 1 mL, 133 mg | N1=CC(=CC=C1)CCCC=O | C9H11NO
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | 5-pyridin-3-yl-pentan-2-ol | 71 mg | N1=CC(=CC=C1)CCCC(C)O | C10H15NO
